US04203932
1-Methyl-1-Isopropyl-2-Dimethoxythiophosphoryl Hydrazine
A mixture of isopropylhydrazine (7.42 g, 0.1 mole), potassium carbonate (20.73 g, 0.15 mole) and triethylbenzyl ammonium chloride (0.3 g, 0.0013 mole was stirred vigorously at reflux with dichloromethane (100 ml) and carbon tetrachloride (60 ml) for 30 minutes. A solution of dimethylchlorothiophosphate (16.6 g, 0.1 mole) in dichloromethane (20 ml) was then added dropwise to this refluxing mixture and the mixture stirred and refluxed for an additional 20 hours. The mixture was then filtered and the filtrate dried over anhydrous magnesium sulfate. The dried filtrate, then was evaporated down to a viscous oil which was subjected to high vacuum for 2 or 3 hours to yield 6.5 g of a thick yellow oil, nD25° =1.5132, identified as the product by NMR, IR and mass spectroscopy.

reactant | isopropylhydrazine | 0.1 mole, 7.42 g | C(C)(C)NN | C3H10N2
reactant | potassium carbonate | 0.15 mole, 20.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | carbon tetrachloride | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | dimethylchlorothiophosphate | 0.1 mole, 16.6 g | COP(=S)(OC)Cl | C2H6ClO2PS
catalyst | triethylbenzyl ammonium chloride | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-Methyl-1-Isopropyl-2-Dimethoxythiophosphoryl Hydrazine | 6.5 g | CN(NP(=S)(OC)OC)C(C)C | C6H17N2O2PS
